US08426437B2
This compound is prepared according to synthesis 79 from 75 mg (0.33 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 75) and 58 mg (0.36 mmol) of tryptamine. After trituration in diethyl ether, 48 mg (40%) of N-[2-(1H-indol-3-yl)-ethyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide is obtained in the form of a light brown solid.

reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.33 mmol, 75 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | tryptamine | 0.36 mmol, 58 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[2-(1H-indol-3-yl)-ethyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide | 48 mg, 40% | N1C=C(C2=CC=CC=C12)CCNC(=O)C1=CNC=2C(NC=3C=CC=CC3C21)=O | C22H18N4O2
